US07259262B2
2.30 g (9.95 mmol) 3-(4-Trifluoromethyl-phenyl)-acrylthioamide, 2.52 g (19.90 mmol) 1,3-dichloroacetone and 75 ml acetone were stirred at room temperature for 24 h. The precipitate was isolated and dried, yielding 2.50 g (70%) 3-(4-trifluoromethyl-phenyl)-thioacrylimidic acid 3-chloro-2-oxo-propyl ester hydrochloride.

reactant | 3-(4-Trifluoromethyl-phenyl)-acrylthioamide | 9.95 mmol, 2.30 g | FC(C1=CC=C(C=C1)C=CC(N)=S)(F)F | C10H8F3NS
reactant | 1,3-dichloroacetone | 19.90 mmol, 2.52 g | ClCC(=O)CCl | C3H4Cl2O
solvent | acetone | 75 ml | CC(=O)C | C3H6O
product | 3-(4-trifluoromethyl-phenyl)-thioacrylimidic acid 3-chloro-2-oxo-propyl ester hydrochloride | 2.50 g, 70% | Cl.ClCC(CSC(C=CC1=CC=C(C=C1)C(F)(F)F)=N)=O | InChI=1S/C13H11ClF3NOS.ClH/c14-7-11(19)8-20-12(18)6-3-9-1-4-10(5-2-9)13(15,16)17;/h1-6,18H,7-8H2;1H
